*PMOS OFF CONDUCTION
*********************************
.INCLUDE ../45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Parameter definition
.PARAM Lmin=45n
.PARAM Wmin=8u
.PARAM Ldiff=90n
	
*Description of the MOS

Mn drain gate source body pmos W={Wmin} L={Lmin} 

Vd 	drain       	0		    0
Vg 	gate	        0   		0   
Vs 	source	      0   		0
Vb 	body	        0	    	0
* Vdd alim	        0.6		  0

*Definition of type of analysis
.CONTROL
set filetype=ascii
set wr_singlescale
set wr_vecnames
set appendwrite

dc Vd 0 1.2 0.05
print V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
wrdata pmos_off/pmos_offW8.txt V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)

.ENDC
.END
