*PMOS off
         
.INCLUDE 45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Parameter definition
.PARAM Lmin=45n
.PARAM Wmin=1u
.PARAM Ldiff=90n
	
*Description of the MOS

Mn drain gate source body pmos W={Wmin} L={Lmin} 

Vd 	drain	alim    0
Vg 	gate	0   	0
Vs 	source	0		0
Vb 	body	0		0

Vdd 0 alim		0

*Definition of type of analysis
.CONTROL
let voltage=0
let Vddbasic=1.2
while voltage le Vddbasic
  let voltage = voltage + 0.01
  alter Vdd = voltage
  dc TEMP 30 30 1
  print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
  wrdata PMOS_OFF_1u.txt abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
end
   set wr_singlescale
   set appendwrite
.ENDC
.END
